US07902220B2
a. 8-Benzyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-8-azabicyclo[3.2.1]oct-2-ene
Trifluoro-methanesulfonic acid 8-benzyl-8-azabicyclo[3.2.1]oct-2-en-3-yl ester (13.2 g, 0.0380 mol) was dissolved in 1,4-dioxane (200 mL, 2 mol) and bis(pinacolato)diboron (10.1 g, 0.0399 mol), potassium acetate (11.2 g, 0.114 mol), 1,1′-bis(diphenylphosphino)ferrocene (0.8 g, 0.002 mol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (0.9 g, 0.001 mol) was added. The reaction mixture was purged with nitrogen and stirred at 80° C. overnight. The reaction mixture was cooled to room temperature, filtered through Celite, concentrated, and purified by flash column chromatography eluting with dichloromethane to give the title intermediate as a brown oil (6.0 g).

reactant | Trifluoro-methanesulfonic acid 8-benzyl-8-azabicyclo[3.2.1]oct-2-en-3-yl ester | 0.0380 mol, 13.2 g | C(C1=CC=CC=C1)N1C2C=C(CC1CC2)OS(=O)(=O)C(F)(F)F | C15H16F3NO3S
reactant | 1,4-dioxane | 2 mol, 200 mL | O1CCOCC1 | C4H8O2
reactant | bis(pinacolato)diboron | 0.0399 mol, 10.1 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.114 mol, 11.2 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.001 mol, 0.9 g | ClCCl | CH2Cl2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.002 mol, 0.8 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 8-Benzyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-8-azabicyclo[3.2.1]oct-2-ene | 6.0 g | C(C1=CC=CC=C1)N1C2C=C(CC1CC2)B2OC(C(O2)(C)C)(C)C | C20H28BNO2
